US06025387
7-hydroxyethyloxy-3',4',5-trimethoxy flavone
7-hydroxy-3',4',5-trimethoxy flavone (200 mg, 0.61 mmol) was dissolved in dimethylformamide and hereto was added potassium carbonate (253 mg, 3 equivalents) and 2-bromoethanol (65 μl, 1.5 equivalents). After the reaction mixture was refluxed for 3~4 hours, the solvent was removed under reduced pressure and the residue was diluted with chloroform and washed with water. The organic layer was dried over anhydrous magnesium sulfate, the solvent was removed under reduced pressure and the residue was column-chromatograped to give 125 mg of the product (55%).

reactant | 7-hydroxy-3',4',5-trimethoxy flavone | 0.61 mmol, 200 mg | OC1=CC(=C2C(C=C(OC2=C1)C1=CC(=C(C=C1)OC)OC)=O)OC | C18H16O6
reactant | potassium carbonate | 253 mg, 3 equivalents | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethanol | 65 μl, 1.5 equivalents | BrCCO | C2H5BrO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-hydroxyethyloxy-3',4',5-trimethoxy flavone | 125 mg, 55% | OCCOC1=CC(=C2C(C=C(OC2=C1)C1=CC(=C(C=C1)OC)OC)=O)OC | C20H20O7
